US07915268B2
3-(2-Fluorophenoxy)propanoic acid.
A mixture of 2-fluorophenol (15 g), 3-bromopropanoic acid (20 g) and NaOH (11 g) was refluxed in 50 mL of water. The solution was cooled to room temperature and acidified to pH 2 with 3 M HCl. The resulting precipitate was isolated by filtration to yield 9.27 g of title compound as a white solid. The filtrate was extracted 3 times with EtOAc to yield 2.5 g of less pure compound.

reactant | 2-fluorophenol | 15 g | FC1=C(C=CC=C1)O | C6H5FO
reactant | 3-bromopropanoic acid | 20 g | BrCCC(=O)O | C3H5BrO2
reactant | NaOH | 11 g | [OH-].[Na+]
reactant | HCl | 3 M | Cl | ClH
solvent | water | 50 mL | O | H2O
product | 3-(2-Fluorophenoxy)propanoic acid | 9.27 g | FC1=C(OCCC(=O)O)C=CC=C1 | C9H9FO3
